US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-8-methoxy-2,4(1H,3H)-quinazolinedione (Compound 7)
2.00 g (9.19 mmol) of 4-chlorobenzenesulfonylisocyanate and 1.40 g (8.38 mmol) of 2-amino-3-methoxybenzoic acid were treated in the same way as in Example 1 to obtain 2.58 g of the above-identified compound (yield 84.0%). Properties: colorless crystal, Melting point: 220°-222° C., PMR (δppm, DMSO-d6): 3.88 (3H,s), 7.16 (1H,t), 7.32 (1H,d), 7.43 (1H,d), 7.76 (2H,d), 8.17 (2H,d), 10.95 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 9.19 mmol, 2.00 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-3-methoxybenzoic acid | 8.38 mmol, 1.40 g | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
product | 3-(4-chlorobenzenesulfonyl)-8-methoxy-2,4(1H,3H)-quinazolinedione | 2.58 g, yield 84.0% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=C(C=CC=C2C1=O)OC)=O | C15H11ClN2O5S
